US05849764
Step 4.2E 3-[3-(2-aminoethyl) -2-(3,5-dimethylphenyl)-1H-indol-5-yl]-1,1-dimethylurea
{2-[2-(3,5-dimethylphenyl)-5-(3,3-dimethylureido)-1H-indol-3-yl]-ethyl}-carbamic acid tert-butyl ester (295 mg) was dissolved in a ternary solvent mixture comprising methylene chloride (6 mL), trifluoroacetic acid (2 mL) and anisole (2 mL) for 2.5 h. The volatile solvent components were removed on a rotary evaporator and the residues taken up in methanol and purified on four (20×20 cm 1000μ) preparative silica gel plates and eluted with a solvent system comprising methanol and methylene chloride in the ratio (1:9 v/v). The product (222 mg) was isolated as a foamy material.

reactant | {2-[2-(3,5-dimethylphenyl)-5-(3,3-dimethylureido)-1H-indol-3-yl]-ethyl}-carbamic acid tert-butyl ester | 295 mg | C(C)(C)(C)OC(NCCC1=C(NC2=CC=C(C=C12)NC(=O)N(C)C)C1=CC(=CC(=C1)C)C)=O | C26H34N4O3
solvent | methylene chloride | 6 mL | C(Cl)Cl | CH2Cl2
solvent | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | anisole | 2 mL | C1(=CC=CC=C1)OC | C7H8O
product | 3-[3-(2-aminoethyl) -2-(3,5-dimethylphenyl)-1H-indol-5-yl]-1,1-dimethylurea | 222 mg | NCCC1=C(NC2=CC=C(C=C12)NC(N(C)C)=O)C1=CC(=CC(=C1)C)C | C21H26N4O
